US04277244
First step: Preparation of 4-nitro-N-γ-methoxypropyl aniline
One heats to reflux for 5 hours 0.2 mole (28.2 g) of parafluoronitrobenzene in 102 ml of γ-methoxypropylamine. One then pours the cooled reaction mixture into 200 g of crushed ice. The intended product precipitates first in the form of an oil which crystallizes rapidly. After recrystallization in methanol and vacuum drying the product melts at 56° C. Analysis gives the following results:

reactant | parafluoronitrobenzene | 0.2 mole, 28.2 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | γ-methoxypropylamine | 102 ml | COCCCN | C4H11NO
product | 4-nitro-N-γ-methoxypropyl aniline | [N+](=O)([O-])C1=CC=C(NCCCOC)C=C1 | C10H14N2O3
